US04171369
(3aRS,4SR,9aSR)-3a,4,9,9a-tetrahydro-4-phenyl-benz[f]isoindoline-2-propionic acid [hydrolysis ester--process (h)]
10 g of (3aRS,4SR,9aSR)-3a,4,9,9a-tetrahydro-4-phenyl-benz[f]isoindoline-2-propionic acid methyl ester are heated to the boil at reflux in 50 cc of 2 N hydrochloric acid for 5 hours. The solution is then concentrated by evaporation, the residue is dissolved in water, the pH of the solution is adjusted to 1 with caustic soda solution, and 1 equivalent of 1,5-naphthalene disulphonic acid is added, whereby the bis-1,5-naphthalene-disulphonate salt form of the title compound is obtained in sticky form. The supernatant water is poured off and the resin is triturated with acetone, whereby it crystallizes. M.P. 193°-195°.

reactant | (3aRS,4SR,9aSR)-3a,4,9,9a-tetrahydro-4-phenyl-benz[f]isoindoline-2-propionic acid methyl ester | 10 g | COC(CCN1CC2C(C3=C(CC2C1)C=CC=C3)C3=CC=CC=C3)=O | C22H25NO2
reactant | caustic soda | [OH-].[Na+]
reactant | 1,5-naphthalene disulphonic acid | 1 equivalent | C1(=CC=CC=2C(=CC=CC12)S(=O)(=O)O)S(=O)(=O)O | C10H8O6S2
solvent | hydrochloric acid | 2 N, 50 cc | Cl | ClH
product | (3aRS,4SR,9aSR)-3a,4,9,9a-tetrahydro-4-phenyl-benz[f]isoindoline-2-propionic acid | C1(=CC=CC=C1)C1C2=C(CC3CN(CC13)CCC(=O)O)C=CC=C2 | C21H23NO2
